US08912188B2
To a solution of methyl 2-chloro-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate (300.0 mg, 1.02 mmol) in dioxane (5 mL) was added 2-fluoropyridin-4-ylboronic acid (289.0 mg, 2.06 mmol), K3PO4 (435.0 mg, 2.05 mmol), Pd(PPh3)4 (60 mg, 0.05 mmol) and three drops water under an inert atmosphere of nitrogen. The resulting solution was stirred for 1 h at 90° C. and then quenched by the addition of water (50 mL). The resulting solution was extracted with dichloromethane (5×20 mL) and the organic layers combined, dried over anhydrous magnesium sulfate and concentrated under vacuum to give a residue, which was purified by a silica gel column with 1%-5% ethyl acetate in petroleum ether to afford methyl 2-(2-fluoropyridin-4-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate as a yellow solid (250 mg, 69%).

reactant | methyl 2-chloro-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate | 1.02 mmol, 300.0 mg | ClC1=NC2=CC=C(C=C2N=C1N(C)C(C)C)C(=O)OC | C14H16ClN3O2
reactant | 2-fluoropyridin-4-ylboronic acid | 2.06 mmol, 289.0 mg | FC1=NC=CC(=C1)B(O)O | C5H5BFNO2
reactant | K3PO4 | 2.05 mmol, 435.0 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | water | three drops | O | H2O
catalyst | Pd(PPh3)4 | 0.05 mmol, 60 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 2-(2-fluoropyridin-4-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate | 250 mg, 69% | FC1=NC=CC(=C1)C1=NC2=CC=C(C=C2N=C1N(C)C(C)C)C(=O)OC | C19H19FN4O2
